US08859774B2
A solution of (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)-(R/S)-methanol (3.1 g, 5.3 mmol) in dry dichloromethane (25 mL) was treated with 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (3.2 g, 7.54 mmol; Dess-Martin periodinane) and the reaction mixture stirred for 1 hour at room temperature. The reaction mixture was cooled and treated with saturated sodium hydrogen carbonate solution (125 mL) followed by dichloromethane (50 mL). The mixture was stirred for 10 minutes and the phases separated. The aqueous phase was extracted with further dichloromethane (×2) and the combined organic phases dried over sodium sulfate. The solids were removed by filtration, the filtrate was concentrated under reduced pressure and the residue purified by column chromatography on silica gel (gradient: 20-30% ethyl acetate in cyclohexane) to afford (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone as a pale yellow foam (2.20 g). The product was further purified by preparative Hplc (C-18 column eluting with 80% aqueous methanol) to give (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl) sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl) methanone as a white solid (1.10 g). LCMS (Method D, ESI): RT 5.61 min, m+H=583.0; 1H NMR (400 MHz, CDCl3): δ 8.62 (ddd, J=4.8, 1.7, 1.0 Hz, 1 H); 7.85-7.86 (m, 1 H); 7.80-7.81 (m, 3 H); 7.70 (d, J=8.3 Hz, 2 H); 7.44-7.45 (m, 3H); 7.27 (s, 1 H); 7.16 (t, J=8.5 Hz, 2 H); 6.49 (d, J=2.2 Hz, 1 H); 5.56 (dd, J=12.3, 2.1 Hz, 1 H); 4.26 (d, J=16.9 Hz, 1 H); 3.86-3.89 (m, 1 H); 2.83-2.84 (m, 3 H); 2.54-2.56 (m, 2 H).

reactant | (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)-(R/S)-methanol | 5.3 mmol, 3.1 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(O)C2=NC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F | C29H24F4N4O3S
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 7.54 mmol, 3.2 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | 125 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (R)-(1-(4-fluorophenyl)-6-((4-(trifluoromethyl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 2.20 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C2=NC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F | C29H22F4N4O3S
